US09107916B2
B. 2-[5-[(6-chloro-1,2,3,4-tetrahydronaphthalen-1-yl)oxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 6-chloro-1,2,3,4-tetrahydronaphthalen-1-ol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C19H15ClN4O, 351. Found, 351.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 6-chloro-1,2,3,4-tetrahydronaphthalen-1-ol | ClC=1C=C2CCCC(C2=CC1)O | C10H11ClO
product | 2-[5-[(6-chloro-1,2,3,4-tetrahydronaphthalen-1-yl)oxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC=1C=C2CCCC(C2=CC1)OC1=CC=NN1C1=NC=CC(=C1)C#N | C19H15ClN4O
